US07041693B2
2-methyl-4-[(piperidin-4-yloxy)methyl]quinoline
To commercially available N-Boc-4-piperidinol (1.00 g, 5.0 mmol) in THF (50 mL) was added NaH (238 mg 60% oil dispersion) and after 25 min, 4-[(2-methyl-4-quinolinyl)methoxy]benzyl chloride (950 mg, 5.00 mmol). After 18 h, the reaction was quenched with water, the THF was removed by rotary evaporator, and the residue was extracted from water with 3×EtOAc. The combined organic extracts were dried over MgSO4, filtered, concentrated, and chromatographed on SiO2 using 40% EtOAc in hexane. Obtained 200 mg (11% yield) of desired product which was treated with TFA (2 mL) in DCM (5 mL) for 1 h. The solvents were removed by rotary evaporator and the product was obtained pure as a free base by extraction from aqueous NaHCO3 with EtOAc after drying over MgSO4, filtering, and concentrating in vacuo. MS found: (M+H)+=257.

reactant | N-Boc-4-piperidinol | 5.0 mmol, 1.00 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | NaH | 238 mg | [H-].[Na+]
reactant | 4-[(2-methyl-4-quinolinyl)methoxy]benzyl chloride | 5.00 mmol, 950 mg | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(CCl)C=C1 | C18H16ClNO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-methyl-4-[(piperidin-4-yloxy)methyl]quinoline | 200 mg, 11% yield | CC1=NC2=CC=CC=C2C(=C1)COC1CCNCC1 | C16H20N2O
